US08685974B2
A mixture of 1-(4-chloro-2-thienyl)ethanone (32.1 mmol) and N,N-dimethylformamide dimethyl acetal (112.2 mmol) was refluxed for 3 h and then allowed to cool to room temperature whereupon crystallization occurred. The reaction mixture was stored in a freezer at −18° C. for 2 h. The supernatant liquid was decanted, the crystals were dried in vacuum to afford 5.3 g (77% yield) of 1-(4-chloro-2-thienyl)-3-(dimethylamino)prop-2-en-1-one which was used in the next step without further purification.

reactant | 1-(4-chloro-2-thienyl)ethanone | 32.1 mmol | ClC=1C=C(SC1)C(C)=O | C6H5ClOS
reactant | N,N-dimethylformamide dimethyl acetal | 112.2 mmol | COC(N(C)C)OC | C5H13NO2
product | 1-(4-chloro-2-thienyl)-3-(dimethylamino)prop-2-en-1-one | 5.3 g, 77% yield | ClC=1C=C(SC1)C(C=CN(C)C)=O | C9H10ClNOS
